US06538000B1
9-(4-Cyanophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one
1,3-Cyclohexanedione, 4-cyanobenzaldehyde and 3-aminopyrazole were processed as described in General Procedure A to provide the title compound.

reactant | 1,3-Cyclohexanedione | C1(CC(CCC1)=O)=O | C6H8O2
reactant | 4-cyanobenzaldehyde | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 9-(4-Cyanophenyl)-5,6,7,9-tetrahydropyrazolo[5,1-b]quinazolin-8(4H)-one | C(#N)C1=CC=C(C=C1)C1N2C(NC=3CCCC(C13)=O)=CC=N2 | C17H14N4O
